US07977351B2
5-Fluoro-3-(2-{4-[2-(2-hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (72 mg, 0.47 mmol) in THF (2 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (1.2 mL of a 1M solution in THF, 1.2 mmol) dropwise. The resulting solution is stirred for 10 min at room temperature. A solution 2-{4-[2-(2-hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-one (77 mg, 0.24 mmol) in THF (1.5 mL) and added dropwise to the reaction mixture. The resulting solution is stirred for 4 h and is then treated with HCl (4M in dioxane, 5 mL) at 0° C. The reaction mixture is stirred at room temperature for 48 h. The reaction mixture is concentrated and the residue is treated with saturated aqueous NaHCO3. The aqueous solution is extracted with EtOAc (2×). The combined organic extracts are dried (MgSO4) and concentrated. The residue is purified by chromatography (silica gel, gradient elution 20:1 chloroform:MeOH to 10:1 chloroform:MeOH). The product containing fractions are concentrated and the residue is triturated from EtOAc-hexane and collected by filtration to give the title compound as a yellow solid (22 mg, 20%),

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.47 mmol, 72 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-{4-[2-(2-hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-one | 0.24 mmol, 77 mg | OCCOCCN1CCN(CC1)CC1=CC=C2C(=N1)COC2=O | C16H23N3O4
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(2-{4-[2-(2-hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 22 mg, 20% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CN2CCN(CC2)CCOCCO | C24H27FN4O4
